US05554749
A solution of 1-{3-[2,2-dimethyl-4-aminomethyl-1,3-dioxolanyl]-propyl}-4,7-bis-(carboxymethyl)-1,4,7-triazacyclononane (12.4 g, 0.03 mol) in 100 mL of deionized water is adjusted to pH 10 with 1N sodium hydroxide. Then bromoacetic acid (4.2 g, 0.03 mol) is added and the mixture is heated to 50 C. for 15 hours, keeping the pH of the solution between 9 and 10. Then the pH is adjusted to 4 with 1N hydrochloric acid and the solvent is evaporated under reduced pressure to give 1-[3-[N-(2,3-dihydroxypropyl)-N-(carboxymethyl)-amino]propyl]-4,7-bis-(carboxymethyl)-1,4,7-triazacyclononane.

reactant | 1-{3-[2,2-dimethyl-4-aminomethyl-1,3-dioxolanyl]-propyl}-4,7-bis-(carboxymethyl)-1,4,7-triazacyclononane | 0.03 mol, 12.4 g | CC1(OCC(O1)(CN)CCCN1CCN(CCN(CC1)CC(=O)O)CC(=O)O)C | C19H36N4O6
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | bromoacetic acid | 0.03 mol, 4.2 g | BrCC(=O)O | C2H3BrO2
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | water | 100 mL | O | H2O
product | 1-[3-[N-(2,3-dihydroxypropyl)-N-(carboxymethyl)-amino]propyl]-4,7-bis-(carboxymethyl)-1,4,7-triazacyclononane | OC(CN(CC(=O)O)CCCN1CCN(CCN(CC1)CC(=O)O)CC(=O)O)CO | C18H34N4O8
